US09238640B2
Preparation of N-(1-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)piperidin-4-yl)-N-ethylacetamide
A mixture of N-ethyl-N-(1-(4-formylphenyl)piperidin-4-yl)acetamide (0.385 g, 1.40 mmol), NaHSO3 (0.162 g, 1.50 mmol), and p-TsOH (0.024 g, 0.12 mmol) were added to a solution of 2-amino-4,6-dimethoxybenzamide (0.250 g, 1.20 mmol) in DMA (10 mL). The reaction was stirred at 150° C. for 4 hours and then cooled to room temperature overnight. The mixture was diluted with H2O and extracted with EtOAc. The organics were washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. Purification by flash chromatography on silica gel, eluting with 2% to 10% MeOH/CH2Cl2, afforded the title compound (0.300 g, 55%) as a yellow solid. 1H NMR (300 MHz, DMSO-d6): mixture of rotamers δ 11.76 (s, 1H), 8.08 (d, J=8.7 Hz, 2H), 7.02 (d, J=8.7 Hz, 2H), 6.67 (d, J=2.0 Hz, 1H), 6.46 (d, J=2.0 Hz, 1H), 4.29-4.33 (m, 0.5H), 3.99-4.03 (m, 2H), 3.88 (s, 3H), 3.83 (5, 3H), 3.12-3.25 (m, 2H), 2.81-2.93 (m, 2H), 2.07 (s, 1.5H), 2.01 (s, 1.5H), 1.59-1.74 (m, 4.5H), 1.10 (t, J=6.7 Hz, 1.5H), 0.99 (t, J=6.7 Hz, 1.5H). ESI MS m/z 451 [M+H]+.

reactant | N-ethyl-N-(1-(4-formylphenyl)piperidin-4-yl)acetamide | 1.40 mmol, 0.385 g | C(C)N(C(C)=O)C1CCN(CC1)C1=CC=C(C=C1)C=O | C16H22N2O2
reactant | NaHSO3 | 1.50 mmol, 0.162 g | OS(=O)[O-].[Na+]
reactant | p-TsOH | 0.12 mmol, 0.024 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | 2-amino-4,6-dimethoxybenzamide | 1.20 mmol, 0.250 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
solvent | H2O | O | H2O
product | N-(1-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)piperidin-4-yl)-N-ethylacetamide | 0.300 g, 55% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CCC(CC1)N(C(C)=O)CC)=O | C25H30N4O4
